US04367238
3-Methyl-7-(2-fluorophenylthio)-2,3-dihydrobenzofuran-2-one was hydrolyzed by treating with potassium hydroxide-methanol to give 2-[2-hydroxy-3-(2-fluorophenylthio)phenyl]propionic acid, mp. 116°-117° C.

reactant | 3-Methyl-7-(2-fluorophenylthio)-2,3-dihydrobenzofuran-2-one | CC1C(OC2=C1C=CC=C2SC2=C(C=CC=C2)F)=O | C15H11FO2S
reactant | potassium hydroxide methanol | [OH-].[K+].CO
product | 2-[2-hydroxy-3-(2-fluorophenylthio)phenyl]propionic acid | OC1=C(C=CC=C1SC1=C(C=CC=C1)F)C(C(=O)O)C | C15H13FO3S
